US03976635
To a solution of N-benzyloxycarbonyl-L-tryptophan (1.69 g) and triethylamine (0.70 ml) in ethyl acetate (15 ml), ethyl 2-ethoxycarbonyloxyimino-2-cyanoacetate (1.08 g) is added, and the resulting mixture is stirred at room temperature for 1 hour and allowed to stand over night. The reaction mixture is treated as in Example A whereby crystals are obtained. The crystals are triturated with petroleum ether, and the obtained powder is collected by filtration, dried and recrystallized from an ethyl acetate-petroleum ether mixture to give N-benzyloxycarbonyl-L-tryptophan ethyl ester (1.4 g). M.P. 80 - 83°C.

reactant | N-benzyloxycarbonyl-L-tryptophan | 1.69 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C19H18N2O4
reactant | triethylamine | 0.70 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-ethoxycarbonyloxyimino-2-cyanoacetate | 1.08 g | C(C)OC(=O)ON=C(C(=O)OCC)C#N | C8H10N2O5
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | N-benzyloxycarbonyl-L-tryptophan ethyl ester | 1.4 g | C(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CNC2=CC=CC=C12)=O | C21H22N2O4
